US07402592B2
6,8-Bis(methylsulfonyloxymethyl)-1,4-dioxaspiro[4.4]nonane
6,8-Bis(hydroxymethyl)-1,4-dioxaspiro[4.4]nonane (8.18 g, 43.5 mmol) was dissolved in dichloromethane (200 ml) and chilled to 0° C. To the chilled solution was added 4-dimethylaminopyridine (0.53 g, 4.4 mmol) and distilled triethylamine (18.2 ml, 131 mmol). Then methanesulfonyl chloride (7.41 ml, 11.0 g, 95.7 mmol) was added drop-wise via syringe over 10 min and the reaction was allowed to come to ambient temperature and stir for 18 h under nitrogen. The reaction was quenched with saturated sodium bicarbonate (25 ml) and stirred for 30 min. After stirring, the layers were separated and the aqueous phase extracted with dichloromethane (2×50 ml). The organics were combined, dried over sodium sulfate, filtered and concentrated to yield a reddish brown oil (14.9, 99.4%).

reactant | 6,8-Bis(hydroxymethyl)-1,4-dioxaspiro[4.4]nonane | 43.5 mmol, 8.18 g | OCC1C2(OCCO2)CC(C1)CO | C9H16O4
reactant | triethylamine | 131 mmol, 18.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 95.7 mmol, 7.41 ml, 11.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.4 mmol, 0.53 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6,8-Bis(methylsulfonyloxymethyl)-1,4-dioxaspiro[4.4]nonane | CS(=O)(=O)OCC1C2(OCCO2)CC(C1)COS(=O)(=O)C | C11H20O8S2
